US04624954
Step (2) Preparation of 6,7,8,9-Tetrahydro-N,10-dimethyl-N-(1-methylethyl)pyrido[1,2-a]indol-9-amine
A solution of N-(6,7,8,9-tetrahydro-10-methylpyrido[1,2-a]indol-9-yl)-N-(1-methylethyl)formamide (37.1 mmol) in tetrahydrofuran (50 mL) was added dropwise at 25° C. to a suspension of lithium aluminum hydride (1.6 g, 42.1 mmol) in the same solvent (50 mL). The reaction mixture was refluxed overnight under the exclusion of moisture. The metal complex was decomposed with a solution of water (3 mL) in the (20 mL) under nitrogen. The resulting suspension was filtered and the filtrate evaporated in vacuo. The residue was dissolved in CHCl3 (100 mL), dried over MgSO4, filtered, and evaporated in vacuo. The oily residue was chromatographed on silica gel (200 g). Elution with 2% MeOH in CHCl3 afforded the title base.

reactant | N-(6,7,8,9-tetrahydro-10-methylpyrido[1,2-a]indol-9-yl)-N-(1-methylethyl)formamide | 37.1 mmol | CC1=C2N(C3=CC=CC=C13)CCCC2N(C=O)C(C)C | C17H22N2O
reactant | lithium aluminum hydride | 42.1 mmol, 1.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 3 mL | O | H2O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 6,7,8,9-Tetrahydro-N,10-dimethyl-N-(1-methylethyl)pyrido[1,2-a]indol-9-amine | CN(C1CCCN2C1=C(C1=CC=CC=C21)C)C(C)C | C17H24N2
